.options savecurrents

* input voltage source
vS 1 0 0 sin(0 230 50)

* envelope
De 1 2 Default
Ci 2 0 1u
Ri 2 0   1k

* positive limiter
Dp1 2 3 Default
Dp2 3 4 Default
Dp3 4 0 Default

* negative limiter
Dn1 0 5 Default
Dn2 5 6 Default
Dn3 6 2 Default

.model Default D
.op
.end

.control

********************************************

* analise no tempo
tran 1e-5 50e-3

plot v(1) v(2)

********************************************
  
hardcopy vospice100.ps v(1) v(2)

.endc